US08703388B2
1-ethynyl-4-(4-n-butylphenylethynyl)benzene
1-(trimethylsilylethynyl)-4-(4-n-butylphenylethynyl)benzene (192 g, 11.86 mmol) was dissolved in CH2Cl2 (100 nit) diluted with MeOH (40 mL) and then treated with powdered K2CO3 (2.1 g, 15 mmol) and allowed to stir at ambient temperature for 19 h under N2. The reaction mixture was filtered to remove solids, concentrated, redissolved in CHCl3, washed with water (2×), brine, dried over MgSO4, filtered and concentrated to dryness to give a brown solid. The solid was chromatographed on silica gel, eluting with 15:1 hexanes/EtOAc to give several fractions rich in product. These fractions were combined and chromatographed again with 95:5 hexanes/EtOAc to give 0.25 g (7%) product as a waxy solid. 1H NMR (CDCl3) δ: 7.50 (s, 4H), 7.47 (d, 8.2 Hz, 2H); 7.21 (d, J=8.2 Hz, 2H); 3.20 (s, 1H); 2.63 (t, J=7.8 Hz, 2H); 1.64 (m, 2H); 1.41 (m, 2H); 0.97 (t, J=7.5 Hz, 3H). 13C{1H} NMR (CDCl3): 143.8, 132.1, 11.6, 131.4, 1128.6, 124.1, 121.6, 120.0, 911.7, 88.2, 83.4, 78.8, 35.6, 33.4, 22.2, 14.0 ppm.

reactant | 1-(trimethylsilylethynyl)-4-(4-n-butylphenylethynyl)benzene | 11.86 mmol, 192 g | C[Si](C)(C)C#CC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CCCC | C23H26Si
reactant | K2CO3 | 15 mmol, 2.1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | 40 mL | CO | CH4O
product | 1-ethynyl-4-(4-n-butylphenylethynyl)benzene | 0.25 g, 7% | C(#C)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)CCCC | C20H18
